US04060526
Step 1. 1-(2-Aminoethyl)-4-phenylpiperazine
A solution of 600 g 1-Cyanomethyl-4-phenylpiperazine in 1525 ml tetrahydrofuran was added dropwise to a suspension of 181 g LiAlH4 in 4.5 liters tetrahydrofuran. The mixture was refluxed 18 hours, cooled and added 181 ml water, 181 ml 15% NaOH, and 543 ml water. The mixture was filtered and concentrated to dryness on the rotovap and the residue distilled to give 470 g product, b0.1 117-24°, m.50-7°.

reactant | 1-Cyanomethyl-4-phenylpiperazine | 600 g | C(#N)CN1CCN(CC1)C1=CC=CC=C1 | C12H15N3
reactant | LiAlH4 | 181 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 181 ml | O | H2O
reactant | NaOH | 181 ml | [OH-].[Na+]
reactant | water | 543 ml | O | H2O
solvent | tetrahydrofuran | 1525 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.5 liters | O1CCCC1 | C4H8O
product | 1-(2-Aminoethyl)-4-phenylpiperazine | 470 g | NCCN1CCN(CC1)C1=CC=CC=C1 | C12H19N3
